US04143049
Preparing 2,3,5-triphenyltetrazolium chloride hemihydrochloride
25 g (0.08 M) of 1,3,5-triphenylformazan, 550 ml of absolute ethyl alcohol, and 3.64 g (0.086 M) of sodium hydroxide were mixed in a glass flask provided with a glass stirrer and 4.8 liters (0.21 M) of chlorine gas passed through for 35 minutes at a temperature of -1° C. Activated carbon was added to the reaction mixture containing 2,3,5-triphenyltetrazolium chloride hydrochloride (n=0.75), the mixture stirred and filtered, the filtrate evaporated, the residue extracted with water, the aqueous extract treated with activated carbon, and filtered. The filtrate was treated with aqueous ammonia to pH 8, then treated with activated carbon, filtered, and the filtrate evaporated. The yield of product was 86 percent. The assay of 2,3,5-triphenyltetrazolium chloride hemihydrochloride (n=0.5) was 96 percent. The crystalline product had a creamy tint.

reactant | 1,3,5-triphenylformazan | 0.08 M, 25 g | C1(=CC=CC=C1)N=NC(=NNC1=CC=CC=C1)C1=CC=CC=C1 | C19H16N4
reactant | sodium hydroxide | 0.086 M, 3.64 g | [OH-].[Na+]
reactant | chlorine | 0.21 M, 4.8 liters | ClCl | Cl2
reactant | 2,3,5-triphenyltetrazolium chloride hydrochloride | Cl.[Cl-].C1(=CC=CC=C1)N1[NH2+]C(=NN1C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethyl alcohol | 550 ml | C(C)O | C2H6O
product | 2,3,5-triphenyltetrazolium chloride hemihydrochloride | Cl.[Cl-].C1(=CC=CC=C1)N1[NH2+]C(=NN1C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)N1[NH2+]C(=NN1C1=CC=CC=C1)C1=CC=CC=C1.[Cl-] | InChI=1S/2C19H16N4.3ClH/c2*1-4-10-16(11-5-1)19-20-22(17-12-6-2-7-13-17)23(21-19)18-14-8-3-9-15-18;;;/h2*1-15H,(H,20,21);3*1H
